US07601850B2
B. 3-{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol
{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxy}acetic acid methyl ester (5.52 g, 15.95 mmol) is dissolved in THF (50 mL). The solution is cooled to 0° C., and treated with Ethyl magnesiumbromide (3.0 M, 13.3 mL) in a dropwise fashion. The reaction is stirred at 0° C. for 10 m, and refluxed for 3 h. It is cooled to 0° C., quenched with sat. NH4Cl (50 mL), then 1.0 M HCl (30 mL) is added. It is extracted with EtOAc (2×100 mL), dried and concentrated. The crude product is purified by chromatography to give the titled compound (5.22 g, 13.96 mmol, 87%). 1H NMR (CD3Cl3), δ 0.71 (t, J=7.4 Hz, 6H), 0.95 (t, J=7.1 Hz, 6H), 1.62-1.73 (m, 4H), 2.04-2.14 (m, 4H), 2.21 (s, 6H), 3.81 (s, 2H), 6.59-6.61 (m, 1H), 6.69-6.74 (m, 2H), 7.02-7.08 (m, 2H). LC/MS (m/z): calcd for C23H35O2S (M+H)+:375.6; found: 375.3.

reactant | {4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxy}acetic acid methyl ester | 15.95 mmol, 5.52 g | COC(COC1=C(C=C(C=C1)C(CC)(C=1SC=C(C1)C)CC)C)=O | C20H26O3S
reactant | Ethyl magnesiumbromide | 3.0 M, 13.3 mL | C(C)[Mg]Br
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol | 13.96 mmol, 5.22 g, 87% | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(OCC(CC)(CC)O)C=C1)C | C23H34O2S
